### PR TITLE
feat(Control): free monads

### PR DESCRIPTION
**Pull request by tannerduve**
This PR introduces the Free monad construction for representing effectful computations as syntax trees, enabling clean separation between program syntax and interpretation semantics. Given a type constructor `F : Type ->T Type` you get a monad "for free". 

**Implementation**: Uses the "freer monad" approach since the traditional free monad is not strictly positive and thus fails termination checking. The `FreeM F α` type represents computation trees where nodes (`liftBind`) are effect requests with continuations, and leaves (`pure`) are final values.

### Core contributions

- **`Cslib/Foundations/Control/Monad/Free.lean`**: `FreeM` definition with `Functor`/`Monad` instances and `LawfulFunctor`/`LawfulMonad` proofs. Includes canonical interpreter `liftM` which is the universal morphism that uniquely defines the free monad.

- **`Cslib/Foundations/Control/Monad/Free/Fold.lean`**: Fold function on the free monad, and uniqueness proof of the universal property of "the unique morphism from an initial algebra" (catamorphism).

- **`Cslib/Foundations/Control/Monad/Free/Effects.lean`**: Standard monad implementations as free monads:
  - `FreeState s`: State monad with `get`/`put` operations
  - `FreeWriter w`: Writer monad, logging computations with `tell` operation  
  - `FreeCont r`: Cont monad, continuation-passing computations

- **`CsLibTests/FreeMonad.lean`**: Complete verified interpreter for an expression language with state, errors, and tracing. Shows how multiple effects can be combined using sum types without monad transformers. Includes big-step operational semantics and correctness proof relating the fold-based interpreter to the semantics.

### Applications
Embedded DSLs, compilers and interpreters, program analysis, [formalizing cryptography](https://github.com/Verified-zkEVM/VCV-io/tree/master), formalizing computational complexity
This enables building interpreters where syntax (what effects to perform) is cleanly separated from semantics (how to interpret those effects), supporting multiple interpretations of the same programs.

### CODE REVIEW

File: Cslib/Control/Monad/Free.lean [hunk 1]
```diff
@@ -0,0 +1,264 @@
...
+
+/--
+The universal property of the free monad `FreeM`.
+
+That is, `liftM handler` is the unique interpreter that extends the effect handler `handler` to
+interpret `FreeM F` computations in a monad `m`.
+-/
+theorem interprets_iff (handler : {ι : Type u} → F ι → m ι) (interp : FreeM F α → m α) :
+    Interprets handler interp ↔ interp = (·.liftM handler) :=
+  ⟨(·.eq), fun h => h ▸ interprets_liftM _⟩
```
Comment (chenson2018) [inline Cslib/Control/Monad/Free.lean]: Should these also go in the `Interprets` namespace, like the above `Interprets.eq`?

File: Cslib/Control/Monad/Free/Fold.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+  h = foldFreeM onValue onEffect :=
+by
+  funext x
+  induction x with
+  | pure a =>
+    rw [foldFreeM_pure, h_pure]
+  | liftBind op k ih =>
+    rw [foldFreeM_liftBind, h_liftBind]
+    congr 1; ext x
+    exact ih x
```
Comment (chenson2018) [inline Cslib/Control/Monad/Free/Fold.lean]:
```suggestion
    grind
```

File: CslibTests/FreeMonadExample.lean [hunk 3]
```diff
@@ -0,0 +1,292 @@
+/-
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: I would prefer this file to be in the library instead of tests. Maybe something like `Cslib/Languages/Effects/FreeMonad.lean`? Feel free to chime in with your opinion @fmontesi, you are better at naming than me.

File: CslibTests/FreeMonadExample.lean [hunk 4]
```diff
@@ -0,0 +1,292 @@
...
+
+## References
+
+Based on "Tutorial: A Verified Interpreter with Side Effects" demonstrating practical
+applications of the mathematical theory developed in the core Free monad files.
+-/
+
+open FreeM
+
+-- Expression Language
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: When moving this to the library, please change all these comments to to `/-- -/` docstrings.

File: CslibTests/FreeMonadExample.lean [hunk 5]
```diff
@@ -0,0 +1,292 @@
...
+inductive Expr where
+  | val : Int → Expr
+  | var : String → Expr
+  | add : Expr → Expr → Expr
+  | div : Expr → Expr → Expr
+
+-- Environment: variable bindings
+abbrev Env := List (String × Int)
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: In `LambdaCalculus.LocallyNameless.Context` there are the beginnings of an API for this type, maybe you could use it here?

(Note to myself: it's strange for that file to be in the lambda calculus directory at all, maybe with the reorg it belongs at the root of `Cslib/Languages`)

File: CslibTests/FreeMonadExample.lean [hunk 6]
```diff
@@ -0,0 +1,292 @@
...
+      if v2 = 0 then do
+        fail "divide by zero"
+        pure 0
+      else
+        pure (v1 / v2)
+
+-- Correctness Proofs
+
+-- Helper lemmas for bind behavior
+theorem runEff_bind_ok {α β}
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: A bit of golfing:
```lean
theorem runEff_bind_ok {α β}
    {p : FreeM Eff α} {k : α → FreeM Eff β}
    {env env' : Env} {tr tr' : Trace} {v : α}
    (h : runEff p env tr = .ok (v, env', tr')) :
    runEff (p >>= k) env tr = runEff (k v) env' tr' := by
  revert h
  induction p generalizing env env' tr tr' v <;> simp only [runEff, bind, cataFreeM] <;> intro h
  · case pure => cases h; rfl
  · case liftBind _ op _ ih =>
    cases op
    · case inl s => cases s <;> exact ih _ h
    · case inr s =>
      cases s
      case inl s => cases s; simp_all [effStep]
      case inr s => cases s; exact ih _ h

theorem runEff_bind_err {α β}
    {p : FreeM Eff α} {k : α → FreeM Eff β}
    {env : Env} {tr : Trace} {msg : String} :
  runEff p env tr = .error msg →
  runEff (p >>= k) env tr = .error msg := by
  induction p generalizing env tr msg <;> simp only [runEff, bind, cataFreeM] <;> intro h
  · case pure => simp [effPure] at h
  · case liftBind _ op _ ih =>
    cases op
    · case inl s => cases s <;> exact ih _ h
    · case inr s =>
      cases s
      case inl s => cases s; cases h; rfl
      case inr s => cases s; exact ih _ h
```

File: Cslib/Control/Monad/Free.lean [hunk 7]
```diff
@@ -0,0 +1,264 @@
...
+
+The file `Free/Effects.lean` demonstrates practical applications by implementing State, Writer, and
+Continuations monads using `FreeM` with appropriate effect signatures.
+
+The file `Free/Fold.lean` provides the theory of the fold operation for free monads.
+
+## References
+
+* [Oleg Kiselyov, Hiromi Ishii. *Freer Monads, More Extensible Effects*][Kiselyov2015]
+* [Bartosz Milewski. *The Dao of Functional Programming*][MilewskiDao]
```
Comment (chenson2018) [inline Cslib/Control/Monad/Free.lean]: Please add these to `docs/docs/references.bib`.

File: CslibTests/FreeMonadExample.lean [hunk 8]
```diff
@@ -0,0 +1,292 @@
...
+7. **Correctness Proof**: Formal verification that interpreter matches semantics
+
+This example shows how free monads enable building domain-specific languages with
+clean separation between syntax and semantics, enabling multiple interpretations
+(execution, analysis, verification) of the same programs.
+
+## References
+
+Based on "Tutorial: A Verified Interpreter with Side Effects" demonstrating practical
+applications of the mathematical theory developed in the core Free monad files.
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: You can also put a link here if you'd like.

File: CslibTests/FreeMonadExample.lean [hunk 9]
```diff
@@ -0,0 +1,292 @@
...
+      simp [eval, bind]
+      have step₁ := runEff_bind_ok (p := eval e₁) (k := fun v₁ => do
+        let v₂ ← eval e₂
+        if v₂ = 0 then fail "divide by zero"; pure 0 else pure (v₁ / v₂)) ih₁
+      simp [bind] at step₁; simp [step₁]
+      have step₂ := runEff_bind_ok (p := eval e₂) (k := fun v₂ =>
+        if v₂ = 0 then (do fail "divide by zero"; pure 0) else pure (v₁ / v₂)) ih₂
+      simp [bind] at step₂; simp [step₂, v₂_eq_0]
+      simp [fail, lift, runEff]
+      congr
```
Comment (chenson2018) [inline CslibTests/FreeMonadExample.lean]: Some of these `congr` can just be `rfl`.

**Comment by chenson2018** [comment]
@tannerduve This all looks good to me. As you mentioned, in leanprover-community/mathlib4#25491 this has been approved and marked as `maintainer-merge` . Before I approve/merge here, can we make sure that is resolved first? I'd like to avoid accidental duplication of code and review effort. Maybe ping the previous Zulip thread and see what folks think of this being in `Cslib` since there were mixed opinions previously.

**Review by chenson2018 — APPROVED** [review]

**Comment by chenson2018** [comment]
@fmontesi This looks good to me, the corresponding Mathlib PR has been closed.

File: Cslib/Languages/Effects/FreeMonad.lean
Comment (fmontesi) [inline Cslib/Languages/Effects/FreeMonad.lean:1]: Is this language a known language, or new? Is it supposed to be a reference for something, or is it just an example? If the latter, we should probably move it to the test directory for now and start figuring out where to put examples like this (perhaps better structuring of `CslibTests` or even a new directory?). :-)

**Review by fmontesi — CHANGES_REQUESTED** [review]
Nice to see free monads!

A comment I couldn't put in the files view: please move `Control/Monad` to `Foundations/Control/Monad`.

File: Cslib/Languages/Effects/FreeMonad.lean
Comment (tannerduve) [reply Cslib/Languages/Effects/FreeMonad.lean:1]: Hi, yes this is just an example of how we can add effects to a toy language. I can add to the test directory.

Comment (tannerduve) [reply Cslib/Languages/Effects/FreeMonad.lean:1]: Done!

**Review by fmontesi — APPROVED** [review]
